US07129268B2
A solution of 2-ethylphenol (24.4 g, 200 mmol), potassium carbonate (41.4 g, 300 mmol) and ethyl bromoacetate (36.7 g, 220 mmol) in 2-butanone (250 ml) was stirred at 100° C. for 24 h. The reaction mixture was filtered and evaporated. The residue was dissolved in benzol (100 ml), washed with sodium carbonate solution (5%, 25 ml), dried and evaporated. The residue was dissolved in dichloromethane (100 ml) and chlorosulfonic acid (34.9 g, 300 mmol) was added slowly at −5° C. The reaction mixture was stirred at room temperature for 6 h. Ice water (25 ml) was added and the mixture was extracted with dichloromethane (3×100 ml). The combined organic phases were washed with water, dried and evaporated to give crude (4-chlorosulfonyl-2-ethyl-phenoxy)-acetic acid ethyl ester as an oil. Crystallization from heptane (500 ml) gave the desired product in 31.6 g (52%) yield.

reactant | 2-ethylphenol | 200 mmol, 24.4 g | C(C)C1=C(C=CC=C1)O | C8H10O
reactant | potassium carbonate | 300 mmol, 41.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 220 mmol, 36.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | chlorosulfonic acid | 300 mmol, 34.9 g | ClS(=O)(=O)O | ClHO3S
solvent | 2-butanone | 250 ml | CC(CC)=O | C4H8O
product | (4-chlorosulfonyl-2-ethyl-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)S(=O)(=O)Cl)CC)=O | C12H15ClO5S
